US07906546B2
To 3.0 g (14.0 mmol) of benzenesulfonyl-acetic acid hydrazide in 100 mL of CHCl3, 3.41 g (21.0 mmol, 1.5 eq) of dichloromethylene-dimethyl-ammonium chloride and 3.90 mL (28.0 mmol, 2 eq) of triethyl-amine were added. The solution was stirred at reflux for 1 hour, partitioned between aqueous NaOH 0.5M and EtOAc. The combined organic phases were dried over Na2SO4, filtered, evaporated, and column chromatography on silica gel with CH2Cl2/MeOH 100:1 afforded 0.59 g /15%) of (5-benzenesulfonylmethyl-[1,3,4]oxadiazol-2-yl)-dimethyl-amine as a white solid, MS: 268 (MH+).

reactant | benzenesulfonyl-acetic acid hydrazide | 14.0 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)NN | C8H10N2O3S
reactant | dichloromethylene-dimethyl-ammonium chloride | 21.0 mmol, 3.41 g, 1.5 eq | [Cl-].ClC(Cl)=[N+](C)C
reactant | triethyl-amine | 28.0 mmol, 3.90 mL, 2 eq | C(C)N(CC)CC | C6H15N
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | (5-benzenesulfonylmethyl-[1,3,4]oxadiazol-2-yl)-dimethyl-amine | C1(=CC=CC=C1)S(=O)(=O)CC1=NN=C(O1)N(C)C | C11H13N3O3S
